US08865726B2
To (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-chlorophenyl) oxazolidin-2-one (50 mg, 0.13 mmol) were added Pd2 dba3 (5.8 mg, 0.0064 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (7.3 mg, 0.013 mmol), 3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole (69 mg, 0.17 mmol), dioxane (1.2 mL) and 2M Na2CO3 (0.2 mL). The reaction was stirred for 2 hours at 80° C. in a sealed tube. After cooling, EtOAc and water were added. The organic phase was washed with brine and dried over MgSO4. The residue was purified by reverse phase chromatography (SP4, 12M, water/CH3CN 90:10 to 0:100, 20 column volumes) to yield (S)-4-(2-chlorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (24 mg, 31% yield) as a pale yellow solid.

reactant | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-chlorophenyl) oxazolidin-2-one | 0.13 mmol, 50 mg | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=C(C=CC=C2)Cl)=O | C15H10BrClN4O2
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.013 mmol, 7.3 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole | 0.17 mmol, 69 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NN(C=N1)COCC[Si](C)(C)C | C20H31BFN3O3Si
reactant | Na2CO3 | 2M, 0.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd2 dba3 | 0.0064 mmol, 5.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(2-chlorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 24 mg, 31% yield | ClC1=C(C=CC=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)F | C29H29ClFN7O3Si
